US07442698B2
3-(4-Nitrophenoxy)propyl chloride
Nitrophenol (10 g, 72 mmol) was dissolved in acetonitrile (100 mL) and potassium carbonate (24.9 g, 180 mmol) added followed by bromochloropropane (113.2 g, 720 mmol). The mixture was heated and stirred under reflux overnight. The reaction was cooled to room temperature, the solid was then filtered off and the solvent evaporated under reduced pressure, taking care to remove all excess alkylating agent, to give the title compound.

reactant | Nitrophenol | 72 mmol, 10 g | [N+](=O)([O-])C1=C(C=CC=C1)O | C6H5NO3
reactant | potassium carbonate | 180 mmol, 24.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromochloropropane | 720 mmol, 113.2 g | BrC(CC)Cl | C3H6BrCl
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 3-(4-Nitrophenoxy)propyl chloride | [N+](=O)([O-])C1=CC=C(OCCCCl)C=C1 | C9H10ClNO3
